US08623919B2
Synthesis of S-allylmercapto-L-cysteine (SAMC)
Allicin (5 g) is added to the solution of L-cysteine (2.5 g, 0.207 mol) in H2O (80 ml) in small portions under vigorous stirring at room temperature. After stirring the mixture at room temperature for 40 min, it is kept at 0 degree C. overnight for reaction. Then the mixture is filtered. The solid product (SAMC) is washed successively with H2O, C2H5OH, and ethyl acetate until white crystal SAMC is produced.

reactant | Allicin | 5 g | C=CCS(SCC=C)=O | C6H10OS2
reactant | L-cysteine | 0.207 mol, 2.5 g | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | H2O | 80 ml | O | H2O
product | S-allylmercapto-L-cysteine | C(C=C)SSC[C@H](N)C(=O)O | C6H11NO2S2
